US06900227B2
Preparation of [2,2-bis-(3-chloro-phenyl)-6-fluoro-benzo[1,3]dioxol-5-yl]-morpholin-4-yl-methanone
This compound was prepared from bis-(3-chloro-phenyl)-dichloromethane and (2-fluoro-4,5-dihydroxy-phenyl)-morpholin-4-yl-methanone according to Example 276b; viscous brown oil, MS: m/e=474 ([M+H]+).

reactant | bis-(3-chloro-phenyl)-dichloromethane | ClC=1C=C(C=CC1)C(Cl)(Cl)C1=CC(=CC=C1)Cl | C13H8Cl4
reactant | (2-fluoro-4,5-dihydroxy-phenyl)-morpholin-4-yl-methanone | FC1=C(C=C(C(=C1)O)O)C(=O)N1CCOCC1 | C11H12FNO4
product | [2,2-bis-(3-chloro-phenyl)-6-fluoro-benzo[1,3]dioxol-5-yl]-morpholin-4-yl-methanone | ClC=1C=C(C=CC1)C1(OC2=C(O1)C=C(C(=C2)C(=O)N2CCOCC2)F)C2=CC(=CC=C2)Cl | C24H18Cl2FNO4
